US08703953B2
A mixture of methyl 4-chloro-6-methylnicotinate (0.1 g, 0.539 mmol), (4-chloro-2-fluorophenyl) boronic acid (0.094 g, 0.539 mmol), Pd(PPh3)4 (0.031 g, 0.027 mmol) and Cs2CO3 (0.527 g, 1.616 mmol) in 1,4-dioxane (10 mL) was heated at 80° C. for 16 h. After cooling, the mixture was diluted with water (30 mL) and ethyl acetate (50 mL). The organic phase was collected, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel chromatography (20% EtOAc in pet. ether) to afford methyl 4-(4-chloro-2-fluorophenyl)-6-methylnicotinate (0.045 g, 0.161 mmol, 30% yield) as a yellow liquid. LCMS (ESI) m/e 280.0 [(M+H)+, calcd for C14H12ClFNO2 280.04]; LC/MS retention time (Method H): tR=2.51 min. 1H NMR (400 MHz, CDCl3) δ 7.96 (s, 1H), 7.13-7.29 (m, 3H), 6.44 (s, 1H), 3.94 (s, 3H), 2.49 (s, 3H).

reactant | methyl 4-chloro-6-methylnicotinate | 0.539 mmol, 0.1 g | ClC1=CC(=NC=C1C(=O)OC)C | C8H8ClNO2
reactant | (4-chloro-2-fluorophenyl) boronic acid | 0.539 mmol, 0.094 g | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | Cs2CO3 | 1.616 mmol, 0.527 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.027 mmol, 0.031 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(4-chloro-2-fluorophenyl)-6-methylnicotinate | 0.161 mmol, 0.045 g, 30% yield | ClC1=CC(=C(C=C1)C1=CC(=NC=C1C(=O)OC)C)F | C14H11ClFNO2
